US09233098B2
7. Preparation of 2-[1-[4-(2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid
Ethyl 2-[1-[4-(2-naphthamido)benzyl]-1H-indazol-3-yl]acetate (226 mg, 0.488 mmol) was dissolved in tetrahydrofuran (10 mL), and in an ice bath 10 mL aqueous solution of lithium hydroxide monohydrate (62 mg, 1.48 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH≈3-4 with diluted hydrochloric acid. A solid precipitated. It was filtered, and dried to obtain a white solid 123 mg, at a yield of 58%.

reactant | Ethyl 2-[1-[4-(2-naphthamido)benzyl]-1H-indazol-3-yl]acetate | 0.488 mmol, 226 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C29H25N3O3
reactant | lithium hydroxide monohydrate | 1.48 mmol, 62 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid | 123 mg, yield of 58% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)O)C=C1 | C27H21N3O3
